US08048909B2
Methyl 5-bromo-4-phenyl-1H-pyrrole-3-carboxylate
Using methyl 4-phenyl-1H-pyrrole-3-carboxylate (2.01 g) and N-bromosuccinimide (1.85 g), a procedure as in Reference Example 40 was performed to give the title compound as white crystals (yield 1.97 g, 70%).

reactant | methyl 4-phenyl-1H-pyrrole-3-carboxylate | 2.01 g | C1(=CC=CC=C1)C=1C(=CNC1)C(=O)OC | C12H11NO2
reactant | N-bromosuccinimide | 1.85 g | BrN1C(CCC1=O)=O | C4H4BrNO2
product | Methyl 5-bromo-4-phenyl-1H-pyrrole-3-carboxylate | yield 1.97 g, 70% | BrC1=C(C(=CN1)C(=O)OC)C1=CC=CC=C1 | C12H10BrNO2
